data/mechanism_extracts/OrgLett/10.1021_acs.orglett.1c03284.json
{"doi": "10.1021_acs.orglett.1c03284", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical cross-coupling of α,β-unsaturated carboxylic acids (or heteroarenes) with 2-fluoromalonates to give monofluoroalkyl-substituted alkenes/(hetero)arenes via Cp2Fe-mediated radical decarboxylative fluoroalkylation", "mechanism_family": ["radical_anodic", "mediator_anodic", "electrocatalysis_outer_sphere", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of Cp2Fe to Cp2Fe+ which then oxidizes the fluoromalonate carbanion (51) to the monofluoroalkyl radical (52); cathode reduces MeOH to MeO- and 1/2 H2", "key_intermediates": [{"name": "fluoromalonate carbanion (51) from deprotonation of dimethyl 2-fluoromalonate by MeO-", "smiles": "COC(=O)[C-](F)C(=O)OC", "role": "reactive"}, {"name": "Cp2Fe+ (ferrocenium) generated by anodic oxidation", "smiles": null, "role": "transient"}, {"name": "monofluoroalkyl radical (52) from SET oxidation of 51", "smiles": "COC(=O)[C](F)C(=O)OC", "role": "reactive"}, {"name": "cinnamate carboxylate (53) from deprotonation of cinnamic acid", "smiles": "O=C([O-])/C=C/c1ccccc1", "role": "reactive"}, {"name": "benzylic radical adduct (54) bearing carboxylate, from radical addition of 52 to 53", "smiles": "COC(=O)C(F)(C(=O)OC)C([CH]c1ccccc1)C(=O)[O-]", "role": "transient"}, {"name": "E-monofluoroalkylated styrene product (3) after SET oxidation and decarboxylation of 54", "smiles": "COC(=O)C(F)(C(=O)OC)/C=C/c1ccccc1", "role": "reactive"}], "electron_flow": "MeOH is reduced at the Pt cathode to MeO- and H2; MeO- deprotonates 2-fluoromalonate 2 to carbanion 51 and α,β-unsaturated acid 1 to carboxylate 53. At the RVC anode, Cp2Fe is oxidized to Cp2Fe+ (Ep/2 = 0.46 V), which oxidizes 51 (Ep/2 = 0.45 V) by SET to give fluoroalkyl radical 52; 52 adds to 53 to form benzylic radical 54, which undergoes anodic SET oxidation and loss of CO2 to give the E-alkene product 3.", "rate_determining_step": null, "probe_reagents": [{"name": "potassium cinnamate (46)", "smiles": "O=C([O-])/C=C/c1ccccc1.[K+]", "purpose": "intermediate_trap", "observation": "replacing cinnamic acid 1 with K-cinnamate 46 still afforded product 3 in 65% yield, supporting the carboxylate as the active intermediate"}, {"name": "1,1-diphenylethylene (DPE, 47)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "difunctionalized methoxy adduct 48 isolated in 61% yield (radical addition of 52 followed by MeOH addition after SET), confirming fluoroalkyl radical intermediate"}, {"name": "N-aryl acrylamide (49)", "smiles": "C=C(C)C(=O)N(C)c1ccccc1", "purpose": "radical_clock", "observation": "oxidative radical cascade cyclization gave fluoroalkyl oxindole 50 in 80% yield, supporting radical addition/cyclization pathway"}, {"name": "cyclic voltammetry of Cp2Fe, 2, and 1", "smiles": null, "purpose": "redox_probe", "observation": "Ep/2(Cp2Fe)=0.46 V, Ep/2(2)=1.21 V, Ep/2(53)=1.55 V, Ep/2(51)=0.45 V vs Ag/AgCl — indicates Cp2Fe+ can oxidize 51 but not 2 or 53 directly, supporting mediator role"}], "evidence_types_used": ["intermediate_trap_other", "radical_clock", "cyclic_voltammetry", "isolation_of_intermediate", "stoichiometric_intermediate"], "evidence_strength": "strong", "notes": "Cp2Fe acts as a redox mediator allowing selective anodic SET to the fluoromalonate carbanion while avoiding direct oxidation of the cinnamate (which is harder to oxidize). The catalyst is regenerated at the electrode without sacrificial oxidant. Allyl chloride analog (45) could not be obtained, suggesting limits when EWG cannot stabilize the radical/anion. Decarboxylation step occurs after SET oxidation of benzylic radical 54 to a cation."}
